US07910612B2
160 mg of N-(5-isopropyl-[1,3,4]thiadiazol-2-yl)-4-[4-methyl-2-(4-trifluoromethylphenyl)-thiazol-5-ylmethoxy]-N-(2-trimethylsilanyl-ethoxymethyl)-benzenesulfonamide were dissolved in 3.8 ml tetrahydrofuran. 977 mg tetra-N-butylammoniumfluoride were added and the reaction mixture was stirred at room temperature for two hours and at 40° C. for twenty minutes. The solvent was removed in vacuo and the residue purified by RP-HPLC to obtain 32 mg N-(5-Isopropyl-[1,3,4]thiadiazol-2-yl)-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzenesulfonamide as amorphous solid.

reactant | N-(5-isopropyl-[1,3,4]thiadiazol-2-yl)-4-[4-methyl-2-(4-trifluoromethylphenyl)-thiazol-5-ylmethoxy]-N-(2-trimethylsilanyl-ethoxymethyl)-benzenesulfonamide | 160 mg | C(C)(C)C1=NN=C(S1)N(S(=O)(=O)C1=CC=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)COCC[Si](C)(C)C | C29H35F3N4O4S3Si
reactant | tetra-N-butylammoniumfluoride | 977 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | tetrahydrofuran | 3.8 ml | O1CCCC1 | C4H8O
product | N-(5-Isopropyl-[1,3,4]thiadiazol-2-yl)-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzenesulfonamide | 32 mg | C(C)(C)C1=NN=C(S1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C23H21F3N4O3S3
